US07273868B2
A mixture of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-methylthiopyrimidine (prepared in the above (4)) 121 mg in chloroform 3 ml is dropped a solution of m-chloroperbenzoic acid 54 mg in chloroform 4 ml on an ice bath over a period of 15 minutes, and the mixture is stirred for 1 hour. The reaction mixture is diluted with an aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1yl)-2-methylsulfinylpyrimidine as a colorless caramel.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-methylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CCC(CC2)O)SC)C=CC1OC | C20H25ClN4O4S
reactant | m-chloroperbenzoic acid | 54 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1yl)-2-methylsulfinylpyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CCC(CC2)O)S(=O)C)C=CC1OC | C20H25ClN4O5S
